US06387992B1
5-(3-Thienyl)-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole
The procedure of Example 1 is followed using 5-bromo-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole (5.21 g, 0.01 mol), thiophene-3-boronic acid (1.34 g, 0.0105 mol), 250 mL of n-propanol, palladium(II) diacetate (0.090 g, 0.0004 mol), triphenylphosphine (0.315 g, 0.0012 mol), 6 mL of 2M sodium carbonate (1.27 g, 0.012 mol) and 5 mL of water. The residue is purified by dry-column flash chromatography (toluene eluent), followed by recrystallization from heptane to give 4.12 g (78.6% yield) of the title compound as a light yellow solid melting at 147-149° C.

reactant | 5-bromo-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | 0.01 mol, 5.21 g | BrC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C29H34BrN3O
reactant | thiophene-3-boronic acid | 0.0105 mol, 1.34 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | triphenylphosphine | 0.0012 mol, 0.315 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 0.012 mol, 2M, 6 mL, 1.27 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium(II) diacetate | 0.0004 mol, 0.090 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
solvent | water | 5 mL | O | H2O
solvent | n-propanol | 250 mL | C(CC)O | C3H8O
product | 5-(3-Thienyl)-2-(2-hydroxy-3-α-cumyl-5-tert-octylphenyl)-2H-benzotriazole | 4.12 g, 78.6% yield | S1C=C(C=C1)C1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)C2=CC=CC=C2)O)C=C1 | C33H37N3OS
